US07179934B2
(R)-6-Cyclohexyl-4-methyl-hexanal
A flask was charged with 10.65 g (44.7 mmol) of 3-((R)-5-cyclohexyl-3-methyl-pentyl)-2,2-dimethyl-oxirane, 70 mL of acetone, 12.3 g (53.6 mmol) of potassium periodate, 70 mL of water, and 0.765 g (4 mmol) of tosic acid-monohydrate. The mixture was stirred for 46 hours. The acetone was removed under reduced pressure, and the mixture was diluted with water. The aqueous layer was extracted with hexanes and dried with sodium sulfate. The drying agent was filtered off and solvent was removed under reduced pressure to get 7.12 g (81% yield) of a clear oil: 1H NMR (400 MHz, CDCl3) ppm 0.87 (m, 5 H) 1.13 (m, 3 H) 1.25 (m, 5 H) 1.66 (m, 8 H) 2.40 (m, 2 H) 9.75 (s, 1 H). MS (APCl) m+1/z is inconclusive.

reactant | 3-((R)-5-cyclohexyl-3-methyl-pentyl)-2,2-dimethyl-oxirane | 44.7 mmol, 10.65 g | C1(CCCCC1)CC[C@H](CCC1C(O1)(C)C)C | C16H30O
reactant | acetone | 70 mL | CC(=O)C | C3H6O
reactant | potassium periodate | 53.6 mmol, 12.3 g | I(=O)(=O)(=O)[O-].[K+]
solvent | water | 70 mL | O | H2O
product | (R)-6-Cyclohexyl-4-methyl-hexanal | 7.12 g, 81% yield | C1(CCCCC1)CC[C@H](CCC=O)C | C13H24O
